US04252803
(ii)c [2-[5-[(4-Morpholinyl)carbonyl]-1H-indol-3-yl]ethyl]carbamic acid, phenylmethyl ester (1.5 g) gave 4-[[3-(2-aminoethyl)-1H-indol-5-yl]carbonyl] morpholine, compound with creatinine, sulphuric acid and water (1:1:1:1) (0.65 g) as a white crystalline solid m.p. 178°-181° C. (from aqueous ethanol)

reactant | 4-[[3-(2-aminoethyl)-1H-indol-5-yl]carbonyl] morpholine | NCCC1=CNC2=CC=C(C=C12)C(=O)N1CCOCC1 | C15H19N3O2
reactant | creatinine | CN1CC(=O)N=C1N | C4H7N3O
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
reactant | water | 0.65 g | O | H2O
reactant | ethanol | C(C)O | C2H6O
product | [2-[5-[(4-Morpholinyl)carbonyl]-1H-indol-3-yl]ethyl]carbamic acid, phenylmethyl ester | 1.5 g | N1(CCOCC1)C(=O)C=1C=C2C(=CNC2=CC1)CCNC(OCC1=CC=CC=C1)=O | C23H25N3O4
